US06087359
To a solution of N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-D-valine, 1,1-dimethylethyl ester, from Example 1c (3.96 g, 9.08 mmol) in 30 mL DMF was added 4-(2-chloroethyl)-morpholine hydrochloride (5.07 g, 27.2 mmol) and K2CO3 (3.76 g, 27.2 mmol). The solution was heated to 63° C. for 24 hours. Additional K2CO3 (1.25 g, 9.08 mmol) and 4-(2-chloroethyl)-morpholine hydrochloride (1.69 g, 9.08 mmol) was added and the mixture heated for an additional 24 hours at 63° C. The mixture was then partitioned between ethyl acetate and H2O, and the organic was washed with sat'd NaCl (3×30 mL) and dried over MgSO4. After concentration in vacuo, the residue was purified by flash chromatography (20:80 hexane/EtOAc) to afford N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl)-N-[2-(4-morpholinyl)ethyl]-D-valine, 1,1-dimethylethyl ester, as a white solid (5.21 g): MS MH+ calc'd for C28H41N2O5S2 : 549, found: 549. HRMS calc'd for C28H41N2O5S2 : 548.2379; found: 548.2384.

reactant | N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl]-D-valine, 1,1-dimethylethyl ester | CC=1C=C(C=CC1)SC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C | C22H29NO4S2
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | 27.2 mmol, 5.07 g | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 27.2 mmol, 3.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 9.08 mmol, 1.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-chloroethyl)-morpholine hydrochloride | 9.08 mmol, 1.69 g | Cl.ClCCN1CCOCC1
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-[[4-[(3-methylphenyl)thio]phenyl]sulfonyl)-N-[2-(4-morpholinyl)ethyl]-D-valine, 1,1-dimethylethyl ester | CC=1C=C(C=CC1)SC1=CC=C(C=C1)S(=O)(=O)N([C@H](C(C)C)C(=O)OC(C)(C)C)CCN1CCOCC1 | C28H40N2O5S2
